US07737166B2
(1-{4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)acetic acid (#97)
Ethyl (1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)acetate (I-191) (220 mg, 0.45 mmol) was dissolved in tetrahydrofuran (5 ml), then 1 N sodium hydroxide (4.5 ml, 4.5 mmol) was added, followed by stirring at room temperature for 18 hours. After the reaction, the solvent was evaporated away under reduced pressure, then 1 N hydrochloric acid (4.5 ml, 4.5 mmol) was added, followed by extraction with a mixed solvent of chloroform:methanol (10:1) and by washing with saturated sodium hydrogencarbonate solution, then the organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated away under reduced pressure. The resulting residue was subjected to preparative silica gel column chromatography. The eluate with chloroform/methanol (4:1, v/v) gave the entitled compound (35 mg, 17%) as a pale yellow crystal.

reactant | Ethyl (1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)acetate | 0.45 mmol, 220 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)CC(=O)OCC)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C28H33N5O3
reactant | sodium hydroxide | 4.5 mmol, 1 N, 4.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 4.5 mmol, 1 N, 4.5 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (1-{4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)acetic acid | 35 mg, 17% | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)CC(=O)O)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C26H29N5O3
